US09290496B2
Step 9: Preparation of N-(4,4-difluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide hydrochloride
To a solution of tert-butyl 3,3-difluoro-4-{[3-(methylsulfonyl)propanoyl]amino}pyrrolidine-1-carboxylate (1.60 g, 4.5 mmol) in acetonitrile (45 mL) was added HCl (4 M in dioxane, 4.5 mL, 18 mmol, 4 mol eq). The resulting solution turned to a white suspension after 1 hr, and was stirred at ambient temperature for 3 hr. The volatiles were removed to dryness to give a white solid, which was suspended in ethyl ether (100 mL). The white solid was collected by filtration, washed with ether (20 mL) and dried to give the title product as a white solid (1.26 g, 96% yield, >95% purity, assumed 1 HCl salt). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.99 (br. s., 2 H) 8.75 (br. s., 1 H) 4.71-4.95 (m, 1 H) 3.58-3.89 (m, 3 H) 3.28-3.43 (m, 2 H) 3.16 (t, J=10.88 Hz, 2 H) 2.99 (s, 3 H) 2.67 (t, J=7.58 Hz, 2 H). 19F NMR (376 MHz, DMSO-d6) δ ppm −108.27-−107.26 (m, 1 F) −109.70-−108.82 (m, 1 F). m/z (APCI+) for C8H14F2N2O3S 257.2 (M+H)+.

reactant | tert-butyl 3,3-difluoro-4-{[3-(methylsulfonyl)propanoyl]amino}pyrrolidine-1-carboxylate | 4.5 mmol, 1.60 g | FC1(CN(CC1NC(CCS(=O)(=O)C)=O)C(=O)OC(C)(C)C)F | C13H22F2N2O5S
reactant | HCl | 18 mmol, 4 M, 4.5 mL | Cl | ClH
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | N-(4,4-difluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide hydrochloride | 1.26 g, 96% yield | Cl.FC1(C(CNC1)NC(CCS(=O)(=O)C)=O)F | InChI=1S/C8H14F2N2O3S.ClH/c1-16(14,15)3-2-7(13)12-6-4-11-5-8(6,9)10;/h6,11H,2-5H2,1H3,(H,12,13);1H
